* Inverting Amplifier with Op-Amp
* Gain = -Rf/Rin = -10
VDC V1 VCC GND 15V
VDC V2 VEE GND -15V
R R1 VIN VMINUS 10k
R R2 VMINUS VOUT 100k
OPAMP U1 GND VMINUS VCC VEE VOUT
