* Inverting Op-Amp Amplifier
* Gain = -Rf/Rin = -10
V1 VIN 0 1V
R1 VIN NINV 1k
R2 NINV VOUT 10k
U1 GND NINV VCC VEE VOUT
VCC VCC 0 15V
VEE VEE 0 -15V
